US07087601B2
6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]pyridin-3-amine (22 mg, 0.070 mmol) was dissolved in MeOH (2 mL), and AcOH (2 drops). NaCNBH3 (44 mg, 0.70 mmol) and formaldehyde (50 μL, 0.70 mmol) were added and the mixture was stirred overnight. The mixture was partitioned between CH2Cl2 and dilute brine. The aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. The crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using an EtOAc/hexanes gradient to afford the desired 6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]-N,N-dimethylpyridin-3-amine: 1H NMR (CDCl3, 300 MHz) δ 8.24–8.23 (d, 1H), 7.94 (s, 2H), 7.87 (s, 1H), 7.84–7.79 (m, 2H), 7.59 (m, 1H), 7.38–7.35 (m, 2H), 7.07–7.06 (m, 1H), 4.01 (s, 3H), 3.04 (s, 6H). MS (ESI) 346 (M+H)+.

reactant | 6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]pyridin-3-amine | 0.070 mmol, 22 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2=CC=C(C=N2)N)OC | C19H15N3O2
reactant | NaCNBH3 | 0.70 mmol, 44 mg | [BH3-]C#N.[Na+]
reactant | formaldehyde | 0.70 mmol, 50 μL | C=O | CH2O
solvent | MeOH | 2 mL | CO | CH4O
catalyst | AcOH | 2 drops | CC(=O)O | C2H4O2
product | 6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]-N,N-dimethylpyridin-3-amine | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2=CC=C(C=N2)N(C)C)OC | C21H19N3O2
